US03984459
c. 7-Bromo-5-methylheptanoic acid ethyl ester
14.0 g of 7-Bromo-5-methylheptanoic acid, 26 ml of absolute ethanol and 1 ml of concentrated H2SO4 were heated to the boil for 10 hours with exclusion of humidity. After cooling the reaction mixture was poured, while stirring and strongly cooling, onto a mixture of 50 ml of ether, 20 ml of water and 6 g of NaHCO3. When the development of CO2 was finished, the organic phase was separated and the aqueous phase was extracted twice with ether. The combined organic phases were washed with a saturated NaHCO-hd 3-solution, dried, evaporated and distilled off.

reactant | 7-Bromo-5-methylheptanoic acid | 14.0 g | BrCCC(CCCC(=O)O)C | C8H15BrO2
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | 6 g | C(=O)(O)[O-].[Na+]
reactant | CO2 | C(=O)=O | CO2
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | ethanol | 26 ml | C(C)O | C2H6O
product | 7-Bromo-5-methylheptanoic acid ethyl ester | C(C)OC(CCCC(CCBr)C)=O | C10H19BrO2
